US08957064B2
4-(3-fluoro-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde
500 mg 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde and 880 mg 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate were dissolved in 25 mL chloroform and heated under microwave irradiation to 120° C. After for 45 min and 4 h additional portions of 200 mg of 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate were added and heating continued at 120° C. The reaction was worked up after 5 h by diluting with water and extraction with dichloromethane. The combined organic layers were dried over Na2SO4 and the solvent evaporated. The crude material was purified on silica gel (dichloromethane/ethyl acetate.

reactant | 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 500 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane | 880 mg | ClC[N+]12CC[N+](CC1)(CC2)F
reactant | tetrafluoroborate | F[B-](F)(F)F
reactant | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane | 200 mg | ClC[N+]12CC[N+](CC1)(CC2)F
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(3-fluoro-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | FC1=CN=C2N1C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C19H12FN3O
